US09126998B2
rac-N-(2-Amino-2-cyclopropylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]-pyridine-3-carboxamide
160 mg (0.48 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid Example 21A, 162 mg (0.51 mmol) of TBTU and 292 mg (2.89 mmol) of 4-methylmorpholine were initially charged in DMF (1.7 ml), and 99 mg (0.53 mmol) of rac-2-cyclopropylpropane-1,2-diamine dihydrochloride were added at 0° C. The reaction mixture was allowed to warm to room temperature and then stirred at RT overnight. Another 50 mg (0.27 mmol) of 2-cyclopropylpropane-1,2-diamine dihydrochloride and 49 mg (0.48 mmol) of 4-methylmorpholine were added, and the mixture was stirred at RT for 1.5 h. The mixture was diluted with a few drops of water/TFA and purified by prep. RP-HPLC (acetonitrile/water gradient with addition of 0.1% TFA). The product fractions were concentrated. Saturated aqueous sodium bicarbonate solution was added to the residue and the mixture was extracted three times with dichloromethane. The combined organic phases were dried over sodium sulphate, filtered off and concentrated. This gave 156 mg (76% of theory) of the target compound.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.48 mmol, 160 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | TBTU | 0.51 mmol, 162 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 2.89 mmol, 292 mg | CN1CCOCC1 | C5H11NO
reactant | rac-2-cyclopropylpropane-1,2-diamine dihydrochloride | 0.53 mmol, 99 mg | Cl.Cl.C1(CC1)C(CN)(C)N
reactant | 2-cyclopropylpropane-1,2-diamine dihydrochloride | 0.27 mmol, 50 mg | Cl.Cl.C1(CC1)C(CN)(C)N
reactant | 4-methylmorpholine | 0.48 mmol, 49 mg | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.7 ml | CN(C)C=O | C3H7NO
catalyst | water TFA | a few drops | O.C(=O)(C(F)(F)F)O
product | rac-N-(2-Amino-2-cyclopropylpropyl)-8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]-pyridine-3-carboxamide | NC(CNC(=O)C1=C(N=C2N1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)(C)C2CC2 | C23H26F2N4O2
